US04402960
Incremental portions of 1.8 g of sodium hydride (50% strength in white oil) is added to a solution of 10.5 g of 4,5-bis(4-methoxyphenyl)imidazole in 50 ml of absolute dimethylformamide. The mixture is agitated for 30 minutes and then 6.75 g of benzyl bromide in 50 ml of dimethylformamide is added dropwise thereto. After 30 minutes, the mixture is poured on ice water, the product is taken up in ethyl acetate, the organic solution dried over sodium sulfate and concentrated to dryness under vacuum. The residue is recrystallized from ethanol, thus obtaining 13.89 g of 4,5-bis(4-methoxyphenyl)-1-benzylimidazole, mp 165°-167°.

reactant | sodium hydride | 1.8 g | [H-].[Na+]
reactant | 4,5-bis(4-methoxyphenyl)imidazole | 10.5 g | COC1=CC=C(C=C1)C=1N=CNC1C1=CC=C(C=C1)OC | C17H16N2O2
reactant | benzyl bromide | 6.75 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4,5-bis(4-methoxyphenyl)-1-benzylimidazole | 13.89 g | COC1=CC=C(C=C1)C=1N=CN(C1C1=CC=C(C=C1)OC)CC1=CC=CC=C1 | C24H22N2O2
